US07897621B2
d) 5-(4-Chloro-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinamide
5-Bromo-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinamide (0.09 g, 0.19 mmol) was dissolved in toluene (4 mL) and dimethylformamide (0.3 mL). To this solution was added with stirring [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) CH2Cl2 (8 mg, 0.010 mmol), 4-chlorophenylboronic acid (32 mg, 0.20 mmol) and sodium carbonate solution (2M, 0.20 mL). This mixture was heated to 90° C. for 15 h and cooled to room temperature. Water (10 mL) was added, the phases were separated and the water mixture was extracted with ethylacetate. Organic phases were pooled, dried with MgSO4 and the volatiles removed in vacuo. The residue was purified by flash chromatography (SiO2, dichloromethane/ethyl acetate) to give the title compound (53 mg) as a brown gum; MS (ISP) 497.2 (M)+.

reactant | 5-Bromo-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinamide | 0.19 mmol, 0.09 g | BrC=1C(=NC(=C(C(=O)NCC(C)(O)C2CC2)C1)C(F)(F)F)OCC(F)(F)F | C15H15BrF6N2O3
reactant | 4-chlorophenylboronic acid | 0.20 mmol, 32 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 2M, 0.20 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 10 mL | O | H2O
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 0.3 mL | CN(C=O)C | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) CH2Cl2 | 0.010 mmol, 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-(4-Chloro-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-(2,2,2-trifluoro-ethoxy)-2-trifluoromethyl-nicotinamide | 53 mg | ClC1=CC=C(C=C1)C=1C(=NC(=C(C(=O)NCC(C)(O)C2CC2)C1)C(F)(F)F)OCC(F)(F)F | C21H19ClF6N2O3
